US07186729B2
4-(4-Chloro-phenyl)-3-hydroxymethyl-1-{3-[7-(hydroxyl-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-3-methyl-piperidine-4-ol
4-(4-Chloro-phenyl)-4-hydroxy-1-{3-[7-(hydroxyl-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-3-methyl-piperidine-3-carboxylic acid methyl ester (0.250 g, 0.43 mmol) was dissolved in tetrahydrofuran and cooled to 0° C. To the solution was added LiAlH4 (1.3 mL, 1.3 mmol) dropwise and the reaction was allowed to stir at 0° C. for 3 h. The reaction was quenched with ice water slowly and diluted with ethyl acetate. The reaction mixture was allowed to stir at room temperature for 45 min. to break up any aluminum complexes. The organics were separated and the aqueous layer was extracted (2×) more. All of the organics were collected, dried over Mg2SO4, filtered and evaporated in vacuo, then purified by Biotage flash chromatography (50% ethyl acetate/50% hexane to 75% ethyl acetate/25% hexane) to yield the title compound (0.103 g, 43%). 1H-NMR (CDCl3): δ 0.53 (s, 3H), 1.55 (d, 6H), 1.62 (m, 1H), 2.40 (q, 2H), 2.55 (q, 3H), 2.72–2.86 (m, 4H), 3.19 (dd, 1H), 3.24 (d, 1H), 3.41 (d, 1H), 5.33 (bs, 2H), 6.17 (t, 1H), 6.44 (bs, 1H), 6.79 (d, 1H), 7.17 (d, 1H), 7.26–7.59 (m, 7H), 8.50 (d, 1H). ESI-MS m/z: 549 (M+1), retention time 1.39.

reactant | 4-(4-Chloro-phenyl)-4-hydroxy-1-{3-[7-(hydroxyl-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-3-methyl-piperidine-3-carboxylic acid methyl ester | 0.43 mmol, 0.250 g | COC(=O)C1(CN(CCC1(O)C1=CC=C(C=C1)Cl)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)C | C33H37ClN2O5
reactant | LiAlH4 | 1.3 mmol, 1.3 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-Chloro-phenyl)-3-hydroxymethyl-1-{3-[7-(hydroxyl-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-3-methyl-piperidine-4-ol | 0.103 g, 43% | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)(C)CO)O | C32H37ClN2O4
